US08957064B2
methyl-(6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidin-5-yl)-amine
257 mg (0.94 mmol) 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine×2HCl are dissolved in 7.3 mL NMP. After addition of 0.26 mL (1.88 mmol) triethylamine the reaction mixture is stirred for one hour. 280 mg (0.85 mmol) 4-(5-Methylamino-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde and 0.12 mL (2.05 mmol) acetic acid are added. The reaction mixture is stirred for 24 hours at room temperature. 469.9 mg (2.2 mmol) NaBH(OAc)3, are added in portions and the reaction mixture is stirred at room temperature over night. The reaction mixture is treated with saturated NaHCO3. The precipitate is filtered off, washed with water, dried and purified by chromatography (silicagel, eluents: dichloromethane/methanol) yielding 163 mg (33.5%) of the desired title compound.

reactant | 2-(5-Azetidine-3-yl-[1,2,4]triazole-3-yl)-pyridine | 0.94 mmol, 257 mg | N1CC(C1)C1=NC(=NN1)C1=NC=CC=C1 | C10H11N5
reactant | triethylamine | 1.88 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | 4-(5-Methylamino-6-phenyl-imidazo[1,2-a]pyrimidin-7-yl)-benzaldehyde | 0.85 mmol, 280 mg | CNC1=C(C(=NC=2N1C=CN2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C20H16N4O
reactant | acetic acid | 2.05 mmol, 0.12 mL | C(C)(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 2.2 mmol, 469.9 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | NMP | 7.3 mL | CN1CCCC1=O | C5H9NO
product | methyl-(6-phenyl-7-{4-{3-[5-(pyridine-2-yl)-1H-[1,2,4]triazole-3-yl)-azetidine-1-ylmethyl]-phenyl}-imidazo[1,2-a]pyrimidin-5-yl)-amine | 163 mg, 33.5% | CNC1=C(C(=NC=2N1C=CN2)C2=CC=C(C=C2)CN2CC(C2)C2=NNC(=N2)C2=NC=CC=C2)C2=CC=CC=C2 | C30H27N9
